US04367238
Sodium borohydride (320 mg) was added to a solution of 2-(2-fluorophenylthio)-6-acetylphenol (2.2 g) in methanol (50 ml) in 5 minutes at 10° C., and stirred at 10° C. for 10 minutes and at room temperature for 10 minutes. The reaction mixture was evaporated under reduced pressure. To the residue was added 10% hydrochloric acid, and the mixture was extracted with diethyl ether. The extract was washed with water, dried and then evaporated under reduced pressure to give oily 1-[2-hydroxy-3-(2-fluorophenylthio)phenyl]ethanol (2.1 g).

reactant | Sodium borohydride | 320 mg | [BH4-].[Na+]
reactant | 2-(2-fluorophenylthio)-6-acetylphenol | 2.2 g | FC1=C(C=CC=C1)SC1=C(C(=CC=C1)C(C)=O)O | C14H11FO2S
solvent | methanol | 50 ml | CO | CH4O
product | 1-[2-hydroxy-3-(2-fluorophenylthio)phenyl]ethanol | 2.1 g | OC1=C(C=CC=C1SC1=C(C=CC=C1)F)C(C)O | C14H13FO2S
